US05250548
2-{N-Propyl-N-[(2' -[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}-6-trifluoromethyl-pyridine-3-carboxylic acid
Ethyl 6-trifluoromethylpyridin-2-one-3-carboxylate, prepared by the method described in Helv. Chim. Acta. 71, 596 (1988), is chlorinated with phosphorus oxychloride to give the 2-chloro compound. Treatment of ethyl 2-chloro-6-trifluoromethylpyridine-3-carboxylate with N-triphenylmethyl-5-[2-(4'-propylaminomethyl-biphenyl)]tetrazole, prepared as described in Example 72B, in tetrahydrofuran containing triethylamine affords the tertiary amine. Treatment of ethyl 2-{N-propyl-N-[(2'-[N-triphenylmethyl-1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}-6-trifluoromethyl-pyridine-3-carboxylate with p-toluenesulfonic acid monohydrate in methanol to detritylate followed by sodium hydroxide in methanol hydrolysis gives the title compound.

reactant | ethyl 2-{N-propyl-N-[(2'-[N-triphenylmethyl-1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}-6-trifluoromethyl-pyridine-3-carboxylate | C(CC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=NC(=CC=C1C(=O)OCC)C(F)(F)F | C45H39F3N6O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-{N-Propyl-N-[(2' -[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}-6-trifluoromethyl-pyridine-3-carboxylic acid | C(CC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C1=NC(=CC=C1C(=O)O)C(F)(F)F | C24H21F3N6O2
